US05688946
A mixture of 343 mg (1.51 mmol) of (1S,2R,3S)-3-amino--4-cyclohexyl-1-cyclopropyl-1,2-butanediol, 995 mg (1.66 mmol) of (Fmoc)2His-OH, 0.21 ml (1.61 mmol) of 4-ethylmorpholine, 449 mg (3.22 mmol) of HOBT and 347 mg (1.81 mmol) of EDC in 20 ml of dimethylformamide is left to stand at room temperature overnight. Thereafter, the reaction mixture is evaporated in a high vacuum, the residue is poured into a mixture of ice and 90 ml of sodium bicarbonate solution and extracted three times with 150 ml of ethyl acetate each time. The three ethyl acetate extracts are washed in succession with 70 ml of saturated ammonium chloride solution, 70 ml of 2N sodium bicarbonate solution and 70 ml of saturated sodium chloride solution, combined, dried over magnesium sulphate, filtered and evaporated. The crude product obtained is stirred at room temperature for 3 hours in 60 ml of methylene chloride and 2 ml of piperidine. Then, the reaction mixture is evaporated and the residue is triturated with 50 ml of hexane and filtered off. The filtrate is chromatographed on 70 g of silica gel with a 65:10:1 mixture of methylene chloride, methanol and ammonia as the eluent, whereby there are obtained 390 mg of (S)-α-amino-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]-imidazole-4-propionamide as a colourless foam; MS: 365 (M+H)+.

reactant | (1S,2R,3S)-3-amino--4-cyclohexyl-1-cyclopropyl-1,2-butanediol | 1.51 mmol, 343 mg | N[C@H]([C@H]([C@@H](O)C1CC1)O)CC1CCCCC1 | C13H25NO2
reactant | 4-ethylmorpholine | 1.61 mmol, 0.21 ml | C(C)N1CCOCC1 | C6H13NO
reactant | HOBT | 3.22 mmol, 449 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 1.81 mmol, 347 mg
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | piperidine | 2 ml | N1CCCCC1 | C5H11N
product | (S)-α-amino-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]-imidazole-4-propionamide | 390 mg | N[C@H](C(=O)N[C@H]([C@H]([C@@H](O)C1CC1)O)CC1CCCCC1)CC=1N=CNC1 | C19H32N4O3
